### PR TITLE
lemmas about supremum and supremums

### PR DESCRIPTION
**Pull request by affeldt-aist**
Lemmas used in the branch `integral_sketch`.

### CODE REVIEW

File: theories/classical_sets.v [hunk 1]
```diff
@@ -980,3 +980,29 @@ Definition supremum (x0 : T) E :=
...
 
 End UpperLowerTheory.
+
+Section UpperLowerOrderTheory.
+Import Order.TTheory.
+Variables (d : unit) (T : orderType d).
+Implicit Types E : set T.
+
+Lemma lt_supremum_Nmem x0 E t :
+  supremums E !=set0 -> (supremum x0 E < t)%O -> ~ E t.
```
Comment (CohenCyril) [inline theories/classical_sets.v:990]: I'd rather swap the last two arguments: `E t -> (supremum x0 E >= t)%O` and use a [`contra_notN`](https://github.com/math-comp/math-comp/blob/3ceb153b972cbfc23a33daa740ec31050881bfa2/mathcomp/ssreflect/ssrbool.v#L227) lemma to finish the job.
Maybe we should also envision adding `contra_not_le` etc lemmas

File: theories/classical_sets.v [hunk 2]
```diff
@@ -980,3 +980,29 @@ Definition supremum (x0 : T) E :=
...
+Proof.
+move=> [x Ex]; rewrite /supremum; case: pselect => /= [_|]; last first.
+  by move/set0P/negP; rewrite negbK => /eqP -> _.
+case: xgetP => [t' t'E [uEt' _ t't Et]|].
+- by apply/negP : t't; rewrite -leNgt uEt'.
+- by move/(_ x).
+Qed.
+
+End UpperLowerOrderTheory.
```
Comment (CohenCyril) [inline theories/classical_sets.v:999]: shouldn't there be the same for "infimum"?

File: theories/classical_sets.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/classical_sets.v]: I recorded the idea as a draft PR to mathcomp (https://github.com/math-comp/math-comp/pull/576).

**Review by CohenCyril — APPROVED** [review]
ok to merge after rebase
